US07501412B2
3-Amino-2H-isoquinolin-1-one (9.0 g), dimethylglycine hydrochloride (10.2 g) and pyridine (22.7 mL) were suspended in methylene chloride (100 mL), and 2-chloro-1,3-dimethylimidazolinium chloride (12.4 g) was added under ice-cooling. Then the mixture was stirred at room temperature for 2 hrs. After the completion of the reaction, the reaction mixture was dissolved in a mixed solvent (chloroform and lo methanol 10:1), washed with aqueous potassium carbonate solution and the organic layer was dried over magnesium sulfate. The solvent was evaporated, and the obtained residue was purified by silica gel column chromatography. The fraction eluted with chloroform:methanol was concentrated, and the precipitated crystals were collected by filtration to give 3-amino-4-(2-(dimethylamino) acetyl)-2H-isoquinolin-1-one (5.5 g). This compound was dissolved in chloroform-methanol mixed solvent, and 4N hydrogen chloride-dioxane was added. The precipitated crystals were collected by filtration, and recrystallized from ethanol-water mixed solvent to give 3-amino-4-(2-(dimethylamino)acetyl)-2H-isoquinolin-1-one hydrochloride monohydrate (4.5 g).

reactant | 3-Amino-2H-isoquinolin-1-one | 9.0 g | NC=1NC(C2=CC=CC=C2C1)=O | C9H8N2O
reactant | dimethylglycine hydrochloride | 10.2 g | Cl.CN(CC(=O)O)C
reactant | pyridine | 22.7 mL | N1=CC=CC=C1 | C5H5N
reactant | 2-chloro-1,3-dimethylimidazolinium chloride | 12.4 g | [Cl-].ClC1[NH+](CCN1C)C
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
solvent | methanol | CO | CH4O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3-amino-4-(2-(dimethylamino) acetyl)-2H-isoquinolin-1-one | 5.5 g | NC=1NC(C2=CC=CC=C2C1C(CN(C)C)=O)=O | C13H15N3O2
